US04618678
Methanol (400 ml), 22.1 g (0.1 mole) of 1-benzyl-3-hydroxy-5-oxo-1,2,3,6-tetrahydropyridine hydrate, 19.3 g (0.1 mole) of 2,3-dichloro-6-fluorobenzaldehyde, 29.1 g (0.1 mole) of 2-(2,3-dichlorophenoxy)ethyl acetoacetate and 16 g (0.21 mole) of ammonium acetate were combined and heated to reflux. Solid began to precipitate after one-half hour, but refluxing was continued for 4 hours. The mixture was cooled to room temperature and filtered. The solid was washed with methanol, then dried in vacuo to obtain 34 grams (52.3%) of 4-(2,3-Dichloro-6-fluorophenyl)-1,4,5,6,7,8-hexahydro-2-methyl-7-phenyl-methyl-5-oxo-1,7-naphthyridine-3-carboxylic acid 2-(2,3-dichlorophenoxy)ethyl ester, m.p. 204°-6° C.

reactant | 1-benzyl-3-hydroxy-5-oxo-1,2,3,6-tetrahydropyridine hydrate | 0.1 mole, 22.1 g | O.C(C1=CC=CC=C1)N1CC(CC(C1)=O)O
reactant | 2,3-dichloro-6-fluorobenzaldehyde | 0.1 mole, 19.3 g | ClC1=C(C=O)C(=CC=C1Cl)F | C7H3Cl2FO
reactant | 2-(2,3-dichlorophenoxy)ethyl acetoacetate | 0.1 mole, 29.1 g | C(CC(=O)C)(=O)OCCOC1=C(C(=CC=C1)Cl)Cl | C12H12Cl2O4
reactant | ammonium acetate | 0.21 mole, 16 g | C(C)(=O)[O-].[NH4+]
reactant | Methanol | 400 ml | CO | CH4O
product | 4-(2,3-Dichloro-6-fluorophenyl)-1,4,5,6,7,8-hexahydro-2-methyl-7-phenyl-methyl-5-oxo-1,7-naphthyridine-3-carboxylic acid 2-(2,3-dichlorophenoxy)ethyl ester | 34 grams, 52.3% | ClC1=C(OCCOC(=O)C2=C(N(C=3CN(CC(C3C2C2=C(C(=CC=C2F)Cl)Cl)=O)C2=CC=CC=C2)C)C)C=CC=C1Cl | C31H25Cl4FN2O4
